US07521448B2
1-[4-(2-Hydroxyethoxy)phenyl]-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide (100 mg, 0.26 mmol) and sodium hydride (6 mg, 0.26 mmol) were dissolved in anhydrous DMF (2 mL) under N2 atmosphere. The reaction mixture was heated to 60° C. until hydrogen gas evolution ceased. 2-Chloropyrazine (35 mg, 0.31 mmol, 28 μL) was then added drop-wise and the reaction was heated to 100° C. After 18 h, the reaction mixture was concentrated in vacuo and purified by mass-directed purification to provide 1-{4-[2-(Pyrazin-2-yloxy)ethoxy]phenyl}-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide (OSIP484814AA) as a white powder. 1H NMR (d6-DMSO, 400 MHz): δ 9.17 (brt, J=6.0 Hz, 1H), 8.60 (s, 1H), 8.58 (d, J=1.6 Hz, 1H), 8.47 (dd, J=5.2, 1.2 Hz, 1H), 8.40 (d, J=0.8 Hz, 1H), 8.37 (d, J=1.2 Hz, 1H), 8.26 (s, 2H), 7.90 (dd, J=8.6, 1.8 Hz, 1H), 7.76 (ddd, J=8.2, 1.8 Hz, 1H), 7.65-7.55 (m, 3H), 7.37 (ddd, J=8.0, 4.8, 0.8 Hz, 1H), 7.24 (ddd, J=9.2, 2.2, 2.2 Hz, 2H), 4.69 (m, 2H), 4.54 (d, J=4.4 Hz, 2H), 4.47 (m, 2H). MS(ES+): m/z 467 (100) [MH+].

reactant | 1-[4-(2-Hydroxyethoxy)phenyl]-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide | 0.26 mmol, 100 mg | OCCOC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C22H20N4O3
reactant | sodium hydride | 0.26 mmol, 6 mg | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-Chloropyrazine | 0.31 mmol, 28 μL, 35 mg | ClC1=NC=CN=C1 | C4H3ClN2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-{4-[2-(Pyrazin-2-yloxy)ethoxy]phenyl}-N-(pyridin-3-ylmethyl)-1H-benzimidazole-5-carboxamide | N1=C(C=NC=C1)OCCOC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C(=O)NCC=2C=NC=CC2 | C26H22N6O3
